US06130228
Ethyl 1-Anilino-1-cyclopentene-2-carboxylate
A mixture of aniline (6.0 g, 64.5 mmol), ethyl cyclopentanone-2-carboxylate (Aldrich Chemicals) (10.0 g, 64.1 mmol) and calcium chloride (7.6 g, 68.5 mmol) in THF (100 ml) was heated under reflux for 24 hours. After being allowed to cool, the suspension was filtered and the solvent was removed from the filtrate under reduced pressure. Kugelrohr distillation of the residue (125° C., 0.02 mmHg) gave the title product as a pale yellow liquid.

reactant | aniline | 64.5 mmol, 6.0 g | NC1=CC=CC=C1 | C6H7N
reactant | ethyl cyclopentanone-2-carboxylate | 64.1 mmol, 10.0 g | CCOC(=O)C1CCCC1=O | C8H12O3
reactant | calcium chloride | 68.5 mmol, 7.6 g | [Cl-].[Ca+2].[Cl-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Ethyl 1-Anilino-1-cyclopentene-2-carboxylate | N(C1=CC=CC=C1)C1=C(CCC1)C(=O)OCC | C14H17NO2
